US06217793B1
{circle around (1)}: A mixture comprising 2.8 g of 4-(4′-benzyloxyphenyl)phenol, 1.2 g of (S)-2-methylbutylcarboxylic acid, 3.09 g of DCC and 15 g of dichloromethane was stirred at room temperature for 30 minutes. Then, a catalytic amount of 4-N,N-dimethylaminopyridine was added to the mixture, and the mixture was further stirred at room temperature for 12 hours. After finishing the reaction, insoluble substances were filtered off, followed by distilling off dichloromethane from the filtrate. The resultant residue was purified by means of silica gel column chromatography, whereby 3.5 g of (S)-4-[4′-(2″-methylbutylcarbonyloxy)phenyl]-1-benzyloxybenzene was obtained in the form of a colorless crystal.

reactant | 4-(4′-benzyloxyphenyl)phenol | 2.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C19H16O2
reactant | (S)-2-methylbutylcarboxylic acid | 1.2 g | C[C@H](CC(=O)O)CC | C6H12O2
reactant | DCC | 3.09 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 15 g | ClCCl | CH2Cl2
product | (S)-4-[4′-(2″-methylbutylcarbonyloxy)phenyl]-1-benzyloxybenzene | 3.5 g | C[C@H](CC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)CC | C25H26O3
